US08957203B2
Preparation of intermediate 7-chloro-2,3-dihydro-[1,4]dioxino[2,3-f]isoquinoline
A solution of 2,3-dihydro-[1,4]dioxino[2,3-f]isoquinolin-7-ol (5 g, 24.61 mmol) in POCl3 (50 mL) was refluxed for 14 h. After Concentration, the residue was taken into the mixture of DCM and 4N NaOH solution. The organic phase was collected and dried over sodium sulfate, filtered, then concentrated under vacuum. The crude material was purified by silica gel chromatography using 20% EtOAc/Hexanes as eluent to give 4 g of the desired product 7-chloro-2,3-dihydro-[1,4]dioxino[2,3-f]isoquinoline as a solid. 1H NMR (400 Hz, CDCl3) δ ppm 4.42 (m, 4H), 7.24 (d, J=9.05 Hz, 1H), 7.77 (d, J=5.87 Hz, 1H), 7.84 (d, J=9.05 Hz, 1H), 8.18 (d, J=5.87 Hz, 1H); MS: (M+H)+ 222.

reactant | 2,3-dihydro-[1,4]dioxino[2,3-f]isoquinolin-7-ol | 24.61 mmol, 5 g | O1CCOC=2C1=C1C=CN=C(C1=CC2)O | C11H9NO3
reactant | POCl3 | 50 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-2,3-dihydro-[1,4]dioxino[2,3-f]isoquinoline | 4 g | ClC1=NC=CC2=C3C(=CC=C12)OCCO3 | C11H8ClNO2
